US05424308
N-[1,4-Dihydro-1-phenyl-3-(2-phenylcarbamoyl-cyanoacetyl) -indeno[1,2-c]pyrazol-7-yl]carbonyl-glycine methyl ester (0.84 g) is suspended in 1% KOH solution in 95% ethanol (22.3 ml) and heated under stirring at the reflux temperature for 30 minutes. After cooling the reaction mixture is acidified to pH 2 with 23% HCl and then diluted with ice water. The precipitate is filtered, washed with water and then crystallized from CH2Cl2 /ethanol to yield 0.65 g of pure N-[1,4-dihydro-1-phenyl-3-(2-phenylcarbamoyl-cyanoacetyl) -indeno[1,2-c]pyrazol-7-yl]carbonyl glycine.

reactant | N-[1,4-Dihydro-1-phenyl-3-(2-phenylcarbamoyl-cyanoacetyl) -indeno[1,2-c]pyrazol-7-yl]carbonyl-glycine methyl ester | 0.84 g | COC(CNC(=O)C1=CC=C2CC3=C(N(N=C3C(C(C(NC3=CC=CC=C3)=O)C#N)=O)C3=CC=CC=C3)C2=C1)=O | C30H23N5O5
reactant | HCl | Cl | ClH
solvent | KOH | [OH-].[K+]
solvent | ethanol | 22.3 ml | C(C)O | C2H6O
product | N-[1,4-dihydro-1-phenyl-3-(2-phenylcarbamoyl-cyanoacetyl) -indeno[1,2-c]pyrazol-7-yl]carbonyl glycine | 0.65 g | C1(=CC=CC=C1)N1N=C(C2=C1C1=CC(=CC=C1C2)C(=O)NCC(=O)O)C(C(C(NC2=CC=CC=C2)=O)C#N)=O | C29H21N5O5
